US07476399B2
To a solution of 2-methylheptan-4-one (4.24 g, 33.07 mmol), in methanol (60 mL), were added ammonium acetate (25.50 g, 330.71 mmol) and sodium cyanoborohydride (2.08 g, 33.07 mmol). The reaction mixture was stirred at room temperature for about 24 hours. The solvent was removed under reduced pressure and the residue was diluted with water and basified with 15% NaOH aqueous and extracted with ether. The extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated to give 3.3 g of 2-methylheptan-4-amine (77%). MS (M+H, 130).

reactant | 2-methylheptan-4-one | 33.07 mmol, 4.24 g | CC(C)CC(CCC)=O | C8H16O
reactant | ammonium acetate | 330.71 mmol, 25.50 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 33.07 mmol, 2.08 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | 2-methylheptan-4-amine | 3.3 g, 77% | CC(C)CC(CCC)N | C8H19N
